US07173058B2
To a solution of 3-amino-3-(3,4-bis-difluoromethoxy-phenyl)-propionic acid methyl ester (50 mg, 0.16 mmol) and triethyl amine (0.09 ml, 3.1 mmol) in DMF (2 ml) was added 2-bromomethyl-3-chloro-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester (67 mg, 0.19 mmol). The mixture was heated at 90° C. under nitrogen atmosphere overnight. The solvent was removed in vacuo. The resulted oil was extracted with ethyl acetate (50 ml) and 1N HCl (50 ml). The organic layer was washed with water (30 ml), brine (30 ml) and dried over magnesium sulfate. The solvent was removed in vacuo and the resulted oil was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to give 3-(3,4-bis-difluoromethoxy-phenyl)-3-[4-chloro-7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid methyl ester as a off-white solid (15 mg, 17%). mp, 175–177° C.; 1HNMR (CDCl3): δ 0.88–0.94 (m, 2H, cyclopropyl ring CH2), 1.07–1.13 (m, 2H, cyclopropyl ring CH2), 1.65–1.68 (m, 1H, cyclopropyl ring CH), 3.14 (dd, J=6, 15 Hz, 1H, CHHCO), 3.28 (dd, J=10, 15 Hz, 1H, CHHCO), 3.70(s, 3H, OCH3), 4.13 (d, J=17 Hz, 1H, CHHN), 4.36 (d, J=17 Hz, 1H, CHHN), 5.79–5.85 (m, 1H, CHN), 6.23 (t, JH-F=75 Hz, 1H, OCF2H), 6.26 (t, JH-F=75 Hz, 1H, OCF2H), 7.28–7.41 (m, 4H, Ar), 8.45 (d, J=9 Hz, 1H, Ar), 10.38 (s, 1H, NHCO); 13C NMR (CDCl3): 8.45, 15.25, 16.16, 36.46, 46.34, 51.62, 52.31, 65.38, 111.38, 111.42, 115.57, 115.61, 118.64, 119.76, 119.80, 121.76, 121.81, 122.77, 125.45, 133.14, 136.89, 137.03, 138.86, 142.29, 142.21, 168.79, 170.20, 172.73; Anal. Calcd. for C24H21ClF4N2O6: C, 52.90; H, 3.88; N, 5.14. Found: C, 52.78; H, 3.80; N, 5.01.

reactant | 3-amino-3-(3,4-bis-difluoromethoxy-phenyl)-propionic acid methyl ester | 0.16 mmol, 50 mg | COC(CC(C1=CC(=C(C=C1)OC(F)F)OC(F)F)N)=O | C12H13F4NO4
reactant | triethyl amine | 3.1 mmol, 0.09 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromomethyl-3-chloro-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester | 0.19 mmol, 67 mg | COC(C1=C(C(=CC=C1NC(=O)C1CC1)Cl)CBr)=O | C13H13BrClNO3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-(3,4-bis-difluoromethoxy-phenyl)-3-[4-chloro-7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid methyl ester | 15 mg, 17% | COC(CC(N1C(C2=C(C=CC(=C2C1)Cl)NC(=O)C1CC1)=O)C1=CC(=C(C=C1)OC(F)F)OC(F)F)=O | C24H21ClF4N2O6
